US04650810
(ii) 2-(4-Hydrazinophenyl)-N,N-dimethylacetamide, hydrochloride
An ice cold solution of sodium nitrite (1.088 g) in water (6 ml) was added to a stirred solution of 2-(4-aminophenyl)-N,N-dimethylacetamide (2.67 g) in concentrated hydrochloric acid (10 ml) at -5° C. After stirring the yellow solid for 15 min, it was added to a stirred solution of stannous chloride (16.88 g) in concentrated hydrochloric acid (10 ml) at -10° C. When the addition was complete, the mixture was stirred at room temperature for a further 30 min and poured into ethanol (100 ml). The mixture was evaporated to dryness under reduced pressure, basified using 2N sodium hydroxide (350 ml) and extracted with ethyl acetate (3×200 ml). Evaporation of the dried (Na2SO4) solvent gave a pale yellow gum which was dried under high vacuum. This was dissolved in ethyl acetate (50 ml) and ethereal hydrogen chloride was added until no more solid deposited. Collection of the solid by filtration and washing with ether gave the title compound as a white powder (1.45 g) which was 82.6% pure and was used in the next stage without further purification.

reactant | sodium nitrite | 1.088 g | N(=O)[O-].[Na+]
reactant | 2-(4-aminophenyl)-N,N-dimethylacetamide | 2.67 g | NC1=CC=C(C=C1)CC(=O)N(C)C | C10H14N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
product | 2-(4-Hydrazinophenyl)-N,N-dimethylacetamide, hydrochloride | 1.45 g | Cl.N(N)C1=CC=C(C=C1)CC(=O)N(C)C | InChI=1S/C10H15N3O.ClH/c1-13(2)10(14)7-8-3-5-9(12-11)6-4-8;/h3-6,12H,7,11H2,1-2H3;1H
